US05589492
Methyl 3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]propanoate
Methyl E-3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]prop-2-enoate (7.00 g) was suspended in methanol (220 mL) and hydrogenated over platinum (IV) oxide catalyst (0.44 g total) for a total of 28 hrs. The mixture was filtered through filter aid and the solvent evaporated. The residue was chromatographed on silica gel with 1% methanol in dichloromethane as eluent to afford the title compound as a gum which was used without further purification.

reactant | Methyl E-3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]prop-2-enoate | 7.00 g | CN(C1=NC=CC=C1)CCOC1=CC=C(C=C1)/C=C/C(=O)OC | C18H20N2O3
solvent | methanol | 220 mL | CO | CH4O
catalyst | platinum (IV) oxide | 0.44 g | [Pt](=O)=O
product | Methyl 3-[4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]propanoate | CN(C1=NC=CC=C1)CCOC1=CC=C(C=C1)CCC(=O)OC | C18H22N2O3
